US04305868
N,N'-bis[1,1-bis(hydroxymethyl)-2-hydroxyethyl]terephthalamide
In a 1-liter, three-neck, round-bottom flask equipped with a thermometer, stirrer and condenser were placed 194 g (1.0 mole) of dimethyl terephthalate, 242 g (2.0 mole) tris(hydroxymethyl) aminomethane and 1 liter of methanol. The mixture was refluxed for 8 hours and then allowed to cool. The title compound crystallized and was removed by filtration and dried. The melting point was 188°-190° C.

reactant | dimethyl terephthalate | 1.0 mole, 194 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | tris(hydroxymethyl) aminomethane | 2.0 mole, 242 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | methanol | 1 liter | CO | CH4O
product | N,N'-bis[1,1-bis(hydroxymethyl)-2-hydroxyethyl]terephthalamide | OCC(CO)(CO)NC(C1=CC=C(C(=O)NC(CO)(CO)CO)C=C1)=O | C16H24N2O8
